US06013658
3-(tert-Butoxycarbonylaminomethyl)benzoic acid (5.32 g; 21.2 mmol) was dissolved in N,N-dimethylformamide (20 ml). 1-Ethyl-3-(3-dimethylaminopropyl)-carbodiimide hydrochloride (4.06 g, 21.2 mmol) was added and the mixture was stirred for 20 min. A solution of (R)-3-(2-naphthyl)alanine methyl ester (4.85 g, 21.2 mmol) in N,N-dimethylformamide (20 ml) and triethylamine (4.4 ml) was added and stirring was continued for 18 h. The mixture was diluted with ethyl acetate (400 ml) and the organic phase was washed with water (200 ml), 10% aqueous sodium hydrogensulfate (50 ml), 5% aqueous sodium hydrogencarbonate (100 ml) and water (100 ml). The phases were separated and the organic phase was dried (magnesium sulfate) and the solvent removed in vacuo to afford 8.9 g of (R)-2-(3-(tert-butoxycarbonylaminomethyl)benzoylamino)-3-(2-naphthyl)propionic acid methyl ester.

reactant | 3-(tert-Butoxycarbonylaminomethyl)benzoic acid | 21.2 mmol, 5.32 g | C(C)(C)(C)OC(=O)NCC=1C=C(C(=O)O)C=CC1 | C13H17NO4
reactant | 1-Ethyl-3-(3-dimethylaminopropyl)-carbodiimide hydrochloride | 21.2 mmol, 4.06 g | Cl.C(C)N=C=NCCCN(C)C
reactant | (R)-3-(2-naphthyl)alanine methyl ester | 21.2 mmol, 4.85 g | COC([C@H](N)CC1=CC2=CC=CC=C2C=C1)=O | C14H15NO2
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | triethylamine | 4.4 ml | C(C)N(CC)CC | C6H15N
solvent | ethyl acetate | 400 ml | C(C)(=O)OCC | C4H8O2
product | (R)-2-(3-(tert-butoxycarbonylaminomethyl)benzoylamino)-3-(2-naphthyl)propionic acid methyl ester | 8.9 g | COC([C@@H](CC1=CC2=CC=CC=C2C=C1)NC(C1=CC(=CC=C1)CNC(=O)OC(C)(C)C)=O)=O | C27H30N2O5
